US08912186B2
By a procedure similar to that of example 1.59.1, starting from commercial 1-acetylnaphthalene and 4-chlorobenzaldehyde, 1-(4-chlorophenyl)-3-(1-naphthalenyl)prop-2-en-1-one was obtained as yellow solid.

reactant | 1-acetylnaphthalene | C(C)(=O)C1=CC=CC2=CC=CC=C12 | C12H10O
reactant | 4-chlorobenzaldehyde | ClC1=CC=C(C=O)C=C1 | C7H5ClO
product | 1-(4-chlorophenyl)-3-(1-naphthalenyl)prop-2-en-1-one | ClC1=CC=C(C=C1)C(C=CC1=CC=CC2=CC=CC=C12)=O | C19H13ClO
